US08003806B2
3-{5-[(4-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of ethyl 3-{5-[(4-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (4.0 mg, 8.5 μmol) in hydrochloric acid (10 mL of a 5N solution) was stirred at room temperature for 72 hours. The solution was then evaporated in vacuo to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=2.95 min, MH+ 443].

reactant | ethyl 3-{5-[(4-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 8.5 μmol, 4.0 mg | NC(=N)NC1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=C1 | C26H26N6O3
solvent | hydrochloric acid | Cl | ClH
product | 3-{5-[(4-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | NC(=N)NC1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C=C2)C=C1 | C24H22N6O3
